Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2](=[O:3])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.189971751
[C:4]([H:5])#[C:6][C:7][O:8][H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9],-5.30741248836
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-5.06803341503
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8][O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10],-1.79798299637
[H:12].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.92339433589
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8],-4.19527882547
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],1.06226355237
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:3],3.61809044799
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-1.12622116534
[H:3].[O:1]=[C:2]=[C:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-3.39090490227
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],1.9182009151
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:4]([H:5])[H:6].[H:1][C:2]([H:3])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],4.62631569208
[H:1][C:2]([H:3])[O:4][C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10][C:11][H:12],1.33591646209
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2][H:3],7.65780752888
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],4.6825412792400005
[C:12]=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-3.50769719814
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-0.7916553498100001
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:11]([H:12])[H:13].[H:10],2.08211609164
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.58172342121
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.12962288969
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3](=[O:4])[O:6][C:7]([H:8])([H:9])[H:10].[H:5],3.75320927863
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3],5.31538168761
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[H:10],-0.25030630015
[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-4.83387797725
[H:1].[O:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.78250696061
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-5.630148376869999
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.23151719051
[C:5]([H:6])=[C:13]([H:14])[H:15].[H:1][C:2][C:8]([H:9])([H:10])[C:11](=[C:3]([H:4])[H:7])[H:12]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-5.96171826045
